### PR TITLE
[Merged by Bors] - feat(Data/Fin/Basic): Rename and extend *_above and _below lemmas

### PR DESCRIPTION
**Pull request by wrenna-robson**
Rename `succAbove_below`, `succAbove_above`, `predAbove_below` and `predAbove_Above` to more appropriate things, and vary and extend these results to allow for faster proofs elsewhere.

---
This is part of the ongoing efforts to break up #9145. In particular this is the critical update, where we start seeing benefits in
longer proofs elsewhere (see `succAbove_predAbove` for an example). It's probable that after this update, many of the proofs
in SimplexCategory can be shortened.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by linesthatinterlace** [comment]
@jcommelin

File: Mathlib/Data/Fin/Basic.lean [hunk 1]
```diff
@@ -49,7 +49,7 @@ This file expands on the development in the core library.
 * `Fin.orderIsoSubtype` : coercion to `{ i // i < n }` as an `OrderIso`;
 * `Fin.valEmbedding` : coercion to natural numbers as an `Embedding`;
 * `Fin.valOrderEmbedding` : coercion to natural numbers as an `OrderEmbedding`;
-* `Fin.succEmbedding` : `Fin.succ` as an `OrderEmbedding`;
+* `Fin.succEmb` : `Fin.succ` as an `OrderEmbedding`;
```
Comment (jcommelin) [inline Mathlib/Data/Fin/Basic.lean:52]: Feel free to update `scripts/style-exceptions.txt` to bypass the CI failure on this file. Since you plan to split the file in a follow up PR.

File: Mathlib/Data/Fin/Basic.lean [hunk 2]
```diff
@@ -1865,54 +1980,107 @@ def predAbove (p : Fin n) (i : Fin (n + 1)) : Fin n :=
...
+  · rw [predAbove_of_succ_le _ _ h, rev_pred,
+      predAbove_of_le_castSucc _ _ (rev_succ _ ▸ (le_rev_iff.mpr h)), castPred_inj, rev_rev]
+  · rw [predAbove_of_le_castSucc _ _ h, rev_castPred,
+      predAbove_of_succ_le _ _ (rev_castSucc _ ▸ (rev_le_iff.mpr h)), pred_inj, rev_rev]
+theorem predAbove_rev_right (p : Fin n) (i : Fin (n + 1)) :
+    p.predAbove i.rev = (p.rev.predAbove i).rev := by
+  rw [predAbove_rev_left, rev_rev]
+
+@[simp]
+theorem predAbove_right_zero [NeZero n] {i : Fin n} : predAbove (i : Fin n) 0 = 0 := by
```
Comment (jcommelin) [inline Mathlib/Data/Fin/Basic.lean:2051]: I am a bit worried that all these `simp` lemmas will fire many TC synths for `NeZero n`. I will call a benchmark on this PR to see if it impacts the library.

**Review by jcommelin — COMMENTED** [review]
!bench

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:52]: Thanks. I'll look at doing so.

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:2051]: This is fair. I would be happy to have the `n + 1` versions as simp lemmas if that would be preferred? I had them in an earlier iteration of this work but I understood that NeZero n was preferred if possible.

Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:2051]: In this case, thinking about it the NeZero is only needed to state the lemma (because it is vacuously true for n = 0 because of i). So maybe I can change the statement somewhat? Essentially what I want is the zero on the right, and it's getting access to that notation that's the kicker.

File: Mathlib/Data/Fin/Basic.lean (hunk 1 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:52]: (I don't quite understand the syntax here - also, some other file, Mathlib/RingTheory/DedekindDomain/Ideal.lean, appears to be failing style checks, but I am not sure I modified this one: what gives?)

**Comment by jcommelin** [comment]
!bench

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:2051]: It does seem to impact it. Assuming that's what is causing the issue.

**Comment by jcommelin** [comment]
!bench

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (linesthatinterlace) [reply Mathlib/Data/Fin/Basic.lean:2049]: It's in the approximate topic area, so it might be that whatever that file does it does so in a way that's very sensitive to this change?

**Comment by linesthatinterlace** [comment]
Benchmark issues appear fixed. How do I add the change to add the style exception?

File: Mathlib/Data/Fin/Basic.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Data/Fin/Basic.lean:2049]: > Hmm, weird that only that one file would see such a negative impact. I wonder if it's a fluke? I'll bump master and run another bench.

Well, we've [seen](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/noisy.20.60FilteredColimitCommutesFiniteLimit.60) this [before](https://github.com/leanprover-community/mathlib4/pull/9655#issuecomment-1887793644).

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
